US04803241
A mixture of 3.0 g methyl 4-[(5,6-dimethyl-2-benzoxazolyl)vinyl]benzoate, 25 mL of acetic acid, 9.0 mL of concentrated sulfuric acid, and 7 mL of water is stirred and refluxed for three hours. The mixture is cooled and added to water. The product is collected by filtration, washed with water and air dried. The crude product is recrystallized from N,N-dimethylformamide to give 2.57 g of 4-[2-(5,6-dimethyl-2-benzoxazolyl)vinyl]benzoic acid, which melts at >300° C.

reactant | methyl 4-[(5,6-dimethyl-2-benzoxazolyl)vinyl]benzoate | 3.0 g | CC=1C(=CC2=C(N=C(O2)C=CC2=CC=C(C(=O)OC)C=C2)C1)C | C19H17NO3
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 9.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 7 mL | O | H2O
product | 4-[2-(5,6-dimethyl-2-benzoxazolyl)vinyl]benzoic acid | 2.57 g | CC=1C(=CC2=C(N=C(O2)C=CC2=CC=C(C(=O)O)C=C2)C1)C | C18H15NO3
